.SUBCKT mmun2111lt1 1 2 3 
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* MODEL FORMAT: PSpice
* BRT macro model
* External node 
* Node 1 -> BRT_C
* Node 2 -> BRT_B
* Node 3 -> BRT_E
QOUT 1 4 3 qmodel
R1   2 4 10000
R2   4 3 10000
.MODEL qmodel pnp
+IS=1.24115e-14 BF=217.078 NF=1.06513 VAF=70.9109
+IKF=0.0638166 ISE=2.66819e-15 NE=1.90388 BR=2.28907
+NR=1.09189 VAR=176.744 IKR=0.070362 ISC=9.08811e-14
+NC=2.62109 RB=9.97095 IRB=0.2 RBM=9.97095
+RE=0.0572462 RC=1.58164 XTB=0.10139 XTI=3.05315 EG=1.206
+CJE=2.55801e-12 VJE=0.746499 MJE=0.333828 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=3.07272e-12
+VJC=1.04014 MJC=0.170789 XCJC=0.9 FC=0.5
.ENDS